US06706709B2
Ethylamine (2.1 mL of 2.0M solution in tetrahydrofuran, 4.2 mmol) was added dropwise to a suspension of 4-carboxy-2-oxindole (380 mg, 2.1 mmol) in dimethylformamide (8 mL), followed by 4-dimethylaminopyridine (385 mg, 3.15 mmol) and PyBOP (2.185 g, 4.2 mmol). The mixture was stirred at room temperature for 6 hrs. The reaction was concentrated. The residue was dissolved in dichloromethane, washed with saturated sodium bicarbonate and brine, dried, concentrated and recrystallized to give 280 mg (65%) of 2-oxo-2,3-dihydro-1H-indole-4-carboxylic acid ethylamide.

reactant | Ethylamine | 4.2 mmol, 2.0M, 2.1 mL | C(C)N | C2H7N
reactant | 4-carboxy-2-oxindole | 2.1 mmol, 380 mg | C(=O)(O)C1=C2CC(NC2=CC=C1)=O | C9H7NO3
reactant | PyBOP | 4.2 mmol, 2.185 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 3.15 mmol, 385 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-oxo-2,3-dihydro-1H-indole-4-carboxylic acid ethylamide | 280 mg, 65% | C(C)NC(=O)C=1C=2CC(NC2C=CC1)=O | C11H12N2O2
